US04874761
A solution of 32 g. (0.098 mole) of 2-(2-dimethylaminoethenyl)-3-(4-methoxybenzoyl)nitrobenzene in 200 ml of ethyl acetate was treated with 5 g of 10% palladium-on-charcoal, and the starting material reduced with hydrogen under 50 p.s.i.g. The mixture was then filtered, the filtrate taken to dryness, and the residue recrystallized from ethyl acetate to give 18.1 g of 4-(4-methoxybenzoyl)indole. Another sample, similarly prepared by reduction of the starting material with Raney nickel in ethanol, afforded material having m.p. 148°-152° C. Anal., Calc. for C15H11NO: C, 76.48; H, 5.21; N, 5.57. Found: C, 76.73; H, 5.27; N, 5.58.

reactant | 2-(2-dimethylaminoethenyl)-3-(4-methoxybenzoyl)nitrobenzene | 0.098 mole | CN(C=CC1=C(C=CC=C1C(C1=CC=C(C=C1)OC)=O)[N+](=O)[O-])C | C18H18N2O4
reactant | hydrogen | [H][H] | H2
solvent | ethyl acetate | 200 ml | C(C)(=O)OCC | C4H8O2
catalyst | palladium-on-charcoal | 5 g | [Pd] | Pd
product | 4-(4-methoxybenzoyl)indole | 18.1 g | COC1=CC=C(C(=O)C2=C3C=CNC3=CC=C2)C=C1 | C16H13NO2
